US06225309B1
Using an analogous procedure to that described in Example 20, 2-[2-(2-naphthalenesulphonamido)acetamido]-3-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]propionic acid was reacted with morpholine to give N-{1-morpholinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-ethyl}-2-(2-naphthalenesulphonamido)acetamide in 36% yield.

reactant | 2-[2-(2-naphthalenesulphonamido)acetamido]-3-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]propionic acid | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCC(=O)NC(C(=O)O)CNC(=O)C1CCN(CC1)C1=CC=NC=C1 | C26H29N5O6S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-{1-morpholinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-ethyl}-2-(2-naphthalenesulphonamido)acetamide | 36% yield | O1CCN(CC1)C(=O)C(CNC(=O)C1CCN(CC1)C1=CC=NC=C1)NC(CNS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C30H36N6O6S
